US09255090B2
A mixture under N2 of palladium(II)acetate (13 mg, 0.06 mmol, 0.02 eq.), 2-dicyclohexylphosphino-2′,6′-dimethoxybiphenyl (48 mg, 0.12 mmol, 0.04 eq.), 5-fluoro-8-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-3,4-dihydro-1H-isoquinoline-2-carboxylic acid benzyl ester (1.20 g, 2.92 mmol, 1.00 eq.) and potassium phosphate (1.24 g, 5.84 mmol, 2.00 eq.) in toluene (8 mL) and water (0.8 mL) was stirred at r.t. during 2 min. (4-Bromo-3-methoxy-phenyl)-acetic acid ethyl ester (797 mg, 2.92 mmol, 1.00 eq) was added and the mixture was stirred at 100° C. for 18 hours. The mixture was allowed to cool to r.t., diluted with Et2O (10 mL), filtered through celite, washed with Et2O and concentrated in vacuo. The residue was purified by flashmaster (column: 100 g, flow: 45 mL/min, 30 fractions of 45 mL, Heptane to Heptane+50% AcOEt) to yield 8-(4-ethoxycarbonylmethyl-2-methoxy-phenyl)-5-fluoro-3,4-dihydro-1H-isoquinoline-2-carboxylic acid benzyl ester as a colorless oil.

reactant | 2-dicyclohexylphosphino-2′,6′-dimethoxybiphenyl | 0.12 mmol, 48 mg, 0.04 eq. | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC)OC)C1CCCCC1 | C26H35O2P
reactant | 5-fluoro-8-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-3,4-dihydro-1H-isoquinoline-2-carboxylic acid benzyl ester | 2.92 mmol, 1.20 g, 1.00 eq. | C(C1=CC=CC=C1)OC(=O)N1CC2=C(C=CC(=C2CC1)F)B1OC(C(O1)(C)C)(C)C | C23H27BFNO4
reactant | potassium phosphate | 5.84 mmol, 1.24 g, 2.00 eq. | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | (4-Bromo-3-methoxy-phenyl)-acetic acid ethyl ester | 2.92 mmol, 797 mg, 1.00 eq | C(C)OC(CC1=CC(=C(C=C1)Br)OC)=O | C11H13BrO3
solvent | toluene | 8 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 0.8 mL | O | H2O
solvent | Et2O | 10 mL | CCOCC | C4H10O
catalyst | palladium(II)acetate | 0.06 mmol, 13 mg, 0.02 eq. | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 8-(4-ethoxycarbonylmethyl-2-methoxy-phenyl)-5-fluoro-3,4-dihydro-1H-isoquinoline-2-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1CC2=C(C=CC(=C2CC1)F)C1=C(C=C(C=C1)CC(=O)OCC)OC | C28H28FNO5
